US06498251B1
Synthesis Example 22d 9-Bromo-6,7,8,9-tetrahydrobenzocyclohepten-5-one
1-Benzosuberone (960 mg, 6.0 mmol), N-bromosuccinic acid imide (1.1 g, 6.3 mmol) and azobisisobutyronitrile (99 mg, 0.60 mmol) were stirred overnight at 80° C. in carbon tetrachloride (8 ml). The reaction solution was mixed with chloroform (60 ml), washed with saturated sodium bicarbonate aqueous solution and saturated brine and dried with anhydrous sodium sulfate, the solvent was removed by evaporation under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 770 mg (3.2 mmol, 54%) of the title compound.

reactant | 1-Benzosuberone | 6.0 mmol, 960 mg | C1CCC(=O)C2=CC=CC=C2C1 | C11H12O
reactant | N-bromosuccinic acid imide | 6.3 mmol, 1.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.60 mmol, 99 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | carbon tetrachloride | 8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 9-Bromo-6,7,8,9-tetrahydrobenzocyclohepten-5-one | 3.2 mmol, 770 mg, 54% | BrC1CCCC(C2=C1C=CC=C2)=O | C11H11BrO
